US04477464
To a solution of 48.4 g of S-(o-nitrophenyl)-L-cysteine in 100 ml of 2N aqueous sodium hydroxide at 0° C. is added 28.8 ml of benzyl chloroformate and 50 ml of 4N aqueous sodium hydroxide simultaneously from two addition funnels. The mixture is mechanically stirred overnight at room temperature and then extracted with 150 ml of ether. The aqueous layer is separated and acidified to pH 1 with 12N aqueous hydrochloric acid. The resulting gummy yellow solid is stirred for 3 hr in 500 ml of water, collected by filtration, and dried overnight at 70° C. in vacuo to afford S-(o-nitrophenyl)-N-carbobenzyloxy-L-cysteine; m.p. 84°-88° C.; [α]D =+46.6° (c=1.25, methanol).

reactant | S-(o-nitrophenyl)-L-cysteine | 48.4 g | [N+](=O)([O-])C1=C(C=CC=C1)SC[C@H](N)C(=O)O | C9H10N2O4S
reactant | benzyl chloroformate | 28.8 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
solvent | sodium hydroxide | 4N, 50 ml | [OH-].[Na+]
product | S-(o-nitrophenyl)-N-carbobenzyloxy-L-cysteine | [N+](=O)([O-])C1=C(C=CC=C1)SC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)O | C17H16N2O6S
